US07230001B1
3-[(2-aminophenylmethyl)amino]-1-(diphenylmethyl)-azetidine
A solution of 20.0 g (0.5355 mol) of 1-(diphenylmethyl)-3-[(2-nitrophenylmethyl)amino]-azetidine in 200 ml of methanol was hydrogenated in the presence of 4 g of 5% rhodium/charcoal for 5 hours at ambient temperature. The catalyst was filtered off, the filtrate was concentrated by evaporation in vacuo. 17.7 g (96% of theoretical) of a colourless, highly viscous oil were obtained, which was further processed without any additional purification.

reactant | 1-(diphenylmethyl)-3-[(2-nitrophenylmethyl)amino]-azetidine | 0.5355 mol, 20.0 g | C1(=CC=CC=C1)C(N1CC(C1)NCC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C23H23N3O2
solvent | methanol | 200 ml | CO | CH4O
catalyst | rhodium charcoal | 4 g | [Rh].C
product | 3-[(2-aminophenylmethyl)amino]-1-(diphenylmethyl)-azetidine | NC1=C(C=CC=C1)CNC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25N3
